US07834050B2
5-Hydroxy-2-hydroxymethyl-1-phenyl-pyridin-4-one (214) (Looker, J. H.; Cliffton, M. D. Convenient preparative methods for N-aryl-γ-pyridones from γ-pyrones. J. Hetero. Chem. 1986, 23, 5).
To a suspension of kojic acid (1.421 g, 10.00 mmol) in diluted hydrochloric acid (0.52 mL of concentrated hydrochloric acid diluted with 25 mL of water) was added aniline (1.40 mL, 15.4 mmol). The resulting mixture was heated under reflux for 20 h. The mixture, while warn (60° C.), was washed with dichloromethane two times and the organic phase was discarded. The aqueous phase was neutralized with solid sodium carbonate, upon which much off-white precipitate appeared. The mixture stood in a hood overnight. The crude product was isolated by filtration and purified by recrystallization with methanol to give a pale solid (1.064 g, 49%). Mp: 236-238° C. (lit.85 237-240° C.). 1H NMR (d6-DMSO): δ 4.20 (2H, s), 6.47 (1H, s), 7.35 (1H, s), 7.5-7.6 (5H, m). 13C NMR (d6-DMSO): δ 70.9, 102.5, 114.8, 118.2, 118.9, 130.5, 138.7, 146.7, 165.3, 179.5.

reactant | kojic acid | 10.00 mmol, 1.421 g | C1=C(OC=C(C1=O)O)CO | C6H6O4
reactant | aniline | 15.4 mmol, 1.40 mL | NC1=CC=CC=C1 | C6H7N
solvent | hydrochloric acid | 0.52 mL | Cl | ClH
product | 5-Hydroxy-2-hydroxymethyl-1-phenyl-pyridin-4-one | 1.064 g, 49% | OC=1C(C=C(N(C1)C1=CC=CC=C1)CO)=O | C12H11NO3
